US07410972B2
a) 5-Chloro-N-(3-bromo-6-chloro-2-pyrazinyl)-2-thiophenesulphonamide
Prepared by the method of Example 1 using 3-bromo-6-chloro-2-pyrazinamine and 5-chloro-2-thienylsulphonyl chloride.

reactant | 3-bromo-6-chloro-2-pyrazinamine | BrC=1C(=NC(=CN1)Cl)N | C4H3BrClN3
reactant | 5-chloro-2-thienylsulphonyl chloride | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
product | 5-Chloro-N-(3-bromo-6-chloro-2-pyrazinyl)-2-thiophenesulphonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NC(=CN=C1Br)Cl | C8H4BrCl2N3O2S2
